US05614544
A mixture of 4-[3-[4-[2-(1,3-dioxolan- 2-yl)ethyl]phenyl]-3-oxopropyl]-5-methyl-2-phenyloxazole (2.17 g) and 50% acetic acid-water (60 ml) was stirred at 75°-80° C. for 4 hours. The reaction mixture was concentrated under reduced pressure, neutralized with an aqueous solution of sodium hydrogen carbonate and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated under reduced pressure; the residue was subjected to silica gel column chromatography. From the fraction eluted with ether-hexane (1:1), 3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propionaldehyde (1.5 g, 78%) was obtained, which was then recrystallized from ether-isopropyl ether to yield colorless needles having a melting point of 92°-93° C.

reactant | 4-[3-[4-[2-(1,3-dioxolan- 2-yl)ethyl]phenyl]-3-oxopropyl]-5-methyl-2-phenyloxazole | 2.17 g | O1C(OCC1)CCC1=CC=C(C=C1)C(CCC=1N=C(OC1C)C1=CC=CC=C1)=O | C24H25NO4
solvent | acetic acid water | 60 ml | C(C)(=O)O.O
product | 3-[4-[3-(5-methyl-2-phenyl-4-oxazolyl)propionyl]phenyl]propionaldehyde | 1.5 g, 78% | CC1=C(N=C(O1)C1=CC=CC=C1)CCC(=O)C1=CC=C(C=C1)CCC=O | C22H21NO3
